US08703742B2
3-(3-Benzyloxy-propoxy)-6-fluoro-2-hydroxy-benzaldehyde
To a solution of 6-fluoro-2,3-dihydroxy-benzaldehyde (11.15 g, 71.42 mmol) in anhydrous DMSO (88 mL) under nitrogen were added sequentially sodium t-butoxide (13.72 g, 142.84 mmol) and benzyl-3-bromopropyl ether (17.29 g, 78.56 mmol) and the reaction mixture stirred at rt for 18 h. The mixture was diluted with water (400 mL) and extracted with EtOAc (4×100 mL). The combined organic layer was washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo. Purification was completed by flash chromatography (20% EtOAc/hexane). Yield 11.5 g (77%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 11.62 (s, 1H), 10.23 (s, 1H), 7.42-7.16 (m, 5H), 7.05 (dd, J=8.8, 5.3 Hz, 1H), 6.54 (t, J=9.6 Hz, 1H), 4.52 (s, 2H), 4.13 (t, J=6.3 Hz, 2H), 3.68 (t, J=6.1 Hz, 2H), 2.12 (quin, J=6.2 Hz, 2H). 19F NMR (376 MHz, CHLOROFORM-d): −132 ppm.

reactant | 6-fluoro-2,3-dihydroxy-benzaldehyde | 71.42 mmol, 11.15 g | FC1=CC=C(C(=C1C=O)O)O | C7H5FO3
reactant | sodium t-butoxide | 142.84 mmol, 13.72 g | CC(C)([O-])C.[Na+]
reactant | benzyl-3-bromopropyl ether | 78.56 mmol, 17.29 g | C(C1=CC=CC=C1)C(CCOCCC(CC1=CC=CC=C1)Br)Br | C20H24Br2O
reactant | DMSO | 88 mL | CS(=O)C | C2H6OS
solvent | water | 400 mL | O | H2O
product | 3-(3-Benzyloxy-propoxy)-6-fluoro-2-hydroxy-benzaldehyde | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C(=CC1)F)O | C17H17FO4
